US06348474B1
3-(2,4-Dichlorobenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene
Trifluoroacetic acid (30 ml) was cooled with ice, and sodium borohydride (537 mg, 14.2 mmol) was gradually added at 5-7° C. for 20 min under a nitrogen atmosphere. A solution of 3-((2,4-dichlorophenyl)hydroxymethyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene in methylene chloride was added dropwise for 50 min and the mixture was stirred at room temperature for 70 min. After the completion of the reaction, the reaction mixture was poured into ice water, and trifluoroacetic acid was neutralized with 25% aqueous solution of sodium hydroxide to make the solution alkaline. The solution was extracted with ethyl acetate, and the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure to give the objective compound (0.52 g) as colorless crystals.

reactant | Trifluoroacetic acid | 30 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | 14.2 mmol, 537 mg | [BH4-].[Na+]
reactant | 3-((2,4-dichlorophenyl)hydroxymethyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene | ClC1=C(C=CC(=C1)Cl)C(C=1C2=C(SC1C)C=CC(=C2)C(=O)OC)O | C18H14Cl2O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2,4-Dichlorobenzyl)-5-(methoxycarbonyl)-2-methylbenzo[b]thiophene | 0.52 g | ClC1=C(CC=2C3=C(SC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)Cl | C18H14Cl2O2S
